US09233946B2
Methyl 3-({[5-(2-methyl-1,3-thiazol-4-yl)-2-thienyl]sulfonyl}amino)benzoate
The title compound was prepared according to General Procedure 1, described in Example 1, with 5-(2-methylthiazol-4-yl)thiophene-2-sulphonylchloride (15.4 mg, 0.055 mmol) and methyl 3-aminobenzoate (7.6 mg, 0.050 mmol). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.82-1.83 (s, 3H), 2.98-2.99 (s, 3H), 6.59-6.62 (m, 2H), 6.67-6.68 (s, 2H), 6.81-6.84 (m, 1H), 6.93-6.94 (m, 1H). MS (ESI+) m/z 395 [M+H]+.

reactant | 5-(2-methylthiazol-4-yl)thiophene-2-sulphonylchloride | 0.055 mmol, 15.4 mg | CC=1SC=C(N1)C1=CC=C(S1)S(=O)(=O)Cl | C8H6ClNO2S3
reactant | methyl 3-aminobenzoate | 0.050 mmol, 7.6 mg | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
product | Methyl 3-({[5-(2-methyl-1,3-thiazol-4-yl)-2-thienyl]sulfonyl}amino)benzoate | CC=1SC=C(N1)C1=CC=C(S1)S(=O)(=O)NC=1C=C(C(=O)OC)C=CC1 | C16H14N2O4S3
